US04313950
(B) 2-Amino-4,5-dihydro-2-benzazepine-1(2H,3H)-one
A solution of 2.7 g of O-amino-sulfonic acid and 1.25 g of a 55% oily suspension of sodium hydride in 30 ml of dimethylformamide and 30 ml of tetrahydrofuran was gradually added at a temperature of 10° C. to a suspension of 9.66 g (0.0176 mol) 4,5-dihydro-2-benzazepine-1(2H,3H)-one. After standing for 1 hour at room temperature the mixture was poured into a saturated aqueous solution of NaCl, then the organic layer was separated and the mother liquors were extracted with 300 ml (3×100 ml) of an 1:1 (v:v) mixture of tetrahydrofuran and dimethylformamide. The organic phases were combined and brought to dryness. The obtained residue was subsequently taken up with 500 ml of ethyl acetate and the resulting organic solution was extracted with 200 ml (5×40 ml) of a 3% aqueous solution of HCl. The acidic extract was made alkaline with 5% aqueous sodium hydroxide and subsequently extracted with ethyl acetate. After evaporating the solvent, an oily residue was obtained which was distilled under reduced pressure. Yield: 10 g. of the title compound. B.p. 120° C./0.2 mmHg

reactant | O-amino-sulfonic acid | 2.7 g | NOS(=O)=O | H3NO3S
reactant | sodium hydride | [H-].[Na+]
reactant | 4,5-dihydro-2-benzazepine-1(2H,3H)-one | 0.0176 mol, 9.66 g | C1(NCCCC2=C1C=CC=C2)=O | C10H11NO
reactant | NaCl | [Na+].[Cl-]
solvent | dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
product | 2-Amino-4,5-dihydro-2-benzazepine-1(2H,3H)-one | NN1C(C2=C(CCC1)C=CC=C2)=O | C10H12N2O
